US03991197
A solution of 44.7 g. of 4-methyl-4-nitro-3-(3-pyridyl)-valerophenone in 420 ml. of glacial acetic acid is heated at 60° C. with stirring and treated portionwise with 44.7 g. of zinc dust. After 1 hour, an additional 44.7 g. of zinc dust are added and the reaction mixture is left to react for an additional hour. The cooled reaction mixture is filtered, the filter residue washed with glacial beingnabled acetic acid and the filtrate evaporated under reduced pressure. The residue is taken up in 400 ml. of water and made alkaline with potassium carbonate. The reaction mixture is extracted three times with 200 ml. of ethyl acetate each time, the organic phase is washed twice with water, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue is crystallized with isopropyl ether and there is obtained a product with a melting point of 60°-61° C. The mother liquors are chromatographed on a 50-fold amount of silica gel with ether/diethylamine (95.5) and, after crystallization with isopropyl ether, there is obtained trans-3-(2,2-dimethyl-5-phenyl-3-pyrrolidinyl)-pyridine, with a melting point of 57°-58° C. A methanolic solution of the base product is treated with a methanolic solution of oxalic acid to obtain pH 6. The obtained crystals are washed with ether and the oxalate of the product with a melting point of 224°-225° C. is obtained.

reactant | 4-methyl-4-nitro-3-(3-pyridyl)-valerophenone | CC(C(CC(=O)C1=CC=CC=C1)C=1C=NC=CC1)(C)[N+](=O)[O-] | C17H18N2O3
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | trans-3-(2,2-dimethyl-5-phenyl-3-pyrrolidinyl)-pyridine | CC1(N[C@H](C[C@@H]1C=1C=NC=CC1)C1=CC=CC=C1)C | C17H20N2
